US07635684B2
4-{[4-{3-[1-Carbamoyl-1-(methyl)ethylamino]propoxy}-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 98 using 4-{[4-(3-chloropropoxy)-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole and 2-amino-2-methylpropionamide instead of 4-{[4-(3-chloropropoxy)-2-methylphenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole and 3-benzylaminopropionamide, respectively.

reactant | 4-{[4-(3-chloropropoxy)-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | ClCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)OC1CCOCC1 | C47H71ClN2O13
reactant | 2-amino-2-methylpropionamide | NC(C(=O)N)(C)C | C4H10N2O
reactant | 3-benzylaminopropionamide | C(C1=CC=CC=C1)NCCC(=O)N | C10H14N2O
product | 4-{[4-{3-[1-Carbamoyl-1-(methyl)ethylamino]propoxy}-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | C(N)(=O)C(C)(C)NCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)OC1CCOCC1 | C51H80N4O14
